US03956363
Alkoxyalkyl Esters - Chloromethyl methyl ether (0.055 mole) is added to a suspension of 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid (0.05 mole) and anhydrous potassium carbonate (0.15 mole) in 250 ml. of anhydrous acetone. The mixture is allowed to stir overnight at room temperature. Diethyl ether is added (about 200 ml.) and the mixture is filtered. The filtrate is washed once with 100 ml. of water and dried over anhydrous sodium sulfate. It is then filtered and the solvent is removed in vacuo. The residue is chromatographed on 200 g. of acid-washed alumina, using ether-petroleum ether (varying from 10-60% ether by volume) as the eluent, to give methoxymethyl 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetate.

reactant | 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetic acid | 0.05 mole | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C21H17NO3S
reactant | potassium carbonate | 0.15 mole | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | methoxymethyl 5-cyano-2-methyl-1-(p-methylsulfinylbenzylidene)-3-indenylacetate | C(#N)C=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)OCOC | C23H21NO4S
